US06303347B1
In the same manner as described in Example 2-(5), L-serine benzyl ester (390 mg, 2.0 mmol) was acylated with (R)-3-nonanoyloxytetradecanoic acid (780 mg, 2.2 mmol) in the presence of EDC·MeI (845 mg, 2.5 mmol) in CH2Cl2 to afford 1.0 g (89%) of N-[(R)-3-nonanoyloxytetradecanoyl]-L-serine benzyl ester: mp 52-53° C.; 1H NMR (CDCl3) δ 0.88 (t, 6H, J=6.6 Hz), 1.1-1.7 (m, 32H), 2.30 (t, 2 H, J=7.7 Hz), 2.51 (d, 2H, J=5.8 Hz), 2.62 (t, 1H, J=6.0 Hz), 3.98 (m, 2H), 4.65 (m, 1H), 5.19 (m, 3H), 6.58 (d, 1H, J=6.8 Hz), 7.35 (br s, 5H).

reactant | L-serine benzyl ester | 2.0 mmol, 390 mg | C(C1=CC=CC=C1)OC([C@@H](N)CO)=O | C10H13NO3
reactant | (R)-3-nonanoyloxytetradecanoic acid | 2.2 mmol, 780 mg | C(CCCCCCCC)(=O)O[C@@H](CC(=O)O)CCCCCCCCCCC | C23H44O4
reactant | EDC·MeI | 2.5 mmol, 845 mg | C(CCl)Cl.CI
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[(R)-3-nonanoyloxytetradecanoyl]-L-serine benzyl ester | 1.0 g, 89% | C(C1=CC=CC=C1)OC([C@@H](NC(C[C@@H](CCCCCCCCCCC)OC(CCCCCCCC)=O)=O)CO)=O | C33H55NO6
